US09079866B2
N-[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]morpholine-4-sulfonamide
The title compound was prepared in a manner similar to that described in Example 571 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and N-(2-bromophenyl)morpholine-4-sulfonamide. MS (ESI): mass calcd. for C20H20FN5O3S, 429.13; m/z found, 430.4 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.63 (d, J=1.2, 2H), 7.70-7.54 (m, 2H), 7.48-7.25 (m, 5H), 3.70-3.55 (m, 4H), 3.05 (dd, J=5.7, 3.8, 4H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | N-(2-bromophenyl)morpholine-4-sulfonamide | BrC1=C(C=CC=C1)NS(=O)(=O)N1CCOCC1 | C10H13BrN2O3S
product | N-[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]morpholine-4-sulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)N1CCOCC1)F | C20H20FN5O3S
